US07645753B2
3-Amino-5-hydroxy-4-iodo-benzoic acid
To a solution of 3-amino-5-hydroxy-benzoic acid (0.33 g, 2.16 mmol, 1.0 equiv; [CAS RN 76045-71-1]) in methanol (18 mL) at 0° C. was added within 10 min N-iodo succinimide (0.58 g, 2.59 mmol, 1.2 equiv), dissolved in methanol (3 mL). After stirring for 15 min, the reaction mixture was poured on ice and partly decolorized by addition of a 5% solution of sodium thiosulfate. The solution was extracted with ethyl acetate (3×50 mL), the combined organic phases dried over MgSO4, concentrated by evaporation under reduced pressure and the crude material purified with column chromatography on silica eluting with ethyl acetate/methanol (9:1) providing 0.21 g (35%) of the title compound. 1H NMR (300 MHz, DMSO): δ 5.25 (br s, 2H), 6.61 (d, J=1.9 Hz, 1H), 6.78 (d, J=1.9 Hz, 1H), 10.16 (br s, 1H), 12.58 (br s, 1H). MS (ISP): 280.0 [M+H]+.

reactant | 3-amino-5-hydroxy-benzoic acid | 2.16 mmol, 0.33 g, 1.0 equiv | NC=1C=C(C(=O)O)C=C(C1)O | C7H7NO3
reactant | N-iodo succinimide | 2.59 mmol, 0.58 g, 1.2 equiv | IN1C(CCC1=O)=O | C4H4INO2
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | methanol | 18 mL | CO | CH4O
solvent | methanol | 3 mL | CO | CH4O
product | 3-Amino-5-hydroxy-4-iodo-benzoic acid | 0.21 g, 35% | NC=1C=C(C(=O)O)C=C(C1I)O | C7H6INO3
